US07579351B2
7-(1-Isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
The title compound was synthesized in analogy to example 1, from 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one, 1-isopropyl-piperidin-4-ol (commercially available), triphenylphosphine and di-tert-butylazodicarboxylate, to give the desired product as a white solid (42%).

reactant | 7-hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C10H9N3O2
reactant | 1-isopropyl-piperidin-4-ol | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
product | 7-(1-Isopropyl-piperidin-4-yloxy)-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 42% | C(C)(C)N1CCC(CC1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C18H24N4O2
